US08003649B2
TFA (1 mL) was added in one portion at ambient temperature to a stirred solution of tert-butyl [4-[3-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]-1H-indole-5-carbonyl]piperazine-1-carboxylate (190 mg, 0.32 mmol) in DCM (2 mL). The resulting solution was stirred for 1 hour then applied to an SCX column and eluted with MeOH followed by 2M ammonia in MeOH. Pure fractions were combined and concentrated by evaporation then triturated with ether to give a solid which was collected by filtration and air dried to give 6-[4-[5-(piperazin-1-ylcarbonyl)-1H-indol-3-yl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (156 mg, 99%) as a colourless solid.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-[3-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]-1H-indole-5-carbonyl]piperazine-1-carboxylate | 0.32 mmol, 190 mg | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CNC1=CC=C(C=C21)C(=O)N2CCN(CC2)C(=O)[O-])(F)F
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-[4-[5-(piperazin-1-ylcarbonyl)-1H-indol-3-yl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 156 mg, 99% | N1(CCNCC1)C(=O)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C24H25F3N8O
